US09278915B2
Intermediate 43: Methyl 3-cyano-3-(4-hydroxyphenyl)propanoate
To a 50 mL RB flask fitted with magnetic stirrer was charged with methanol (15 mL). To the stirred solvent was added 3-cyano-3-(4-hydroxyphenyl)propanoic acid (0.6 g, 3.1 mmol), followed by the addition of methanesulfonic acid (1 mL). The reaction mixture was refluxed for 1 h. After completion of the reaction, the reaction mixture was concentrated to distill off the solvent. Water (10 mL) was added and extracted with ethyl acetate (25 mL). The organic layer was washed with water (5 mL) and saturated brine solution (5 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as pale yellow liquid (0.6 g, yield: 93.3%). 1H NMR (300 MHz, CDCl3): δ 7.13-7.15 (d, 2H), 6.75-6.78 (d, 2H), 4.14-4.19 (t, 1H), 3.65 (s, 3H), 2.89-2.97 (m, 1H), 2.71-2.79 (m, 1H).

reactant | 3-cyano-3-(4-hydroxyphenyl)propanoic acid | 3.1 mmol, 0.6 g | C(#N)C(CC(=O)O)C1=CC=C(C=C1)O | C10H9NO3
reactant | methanesulfonic acid | 1 mL | CS(=O)(=O)O | CH4O3S
solvent | methanol | 15 mL | CO | CH4O
product | Methyl 3-cyano-3-(4-hydroxyphenyl)propanoate | 0.6 g, yield: 93.3% | C(#N)C(CC(=O)OC)C1=CC=C(C=C1)O | C11H11NO3
